US05008454
Synthesis of 3-(octadecyloxy)propyl methanesulfonate:
In dichloromethane (50 ml) is dissolved 3-(octadecyloxy)propanol (8.0 g). To the solution are added, under ice-cooling, methanesulfonyl chloride (4.18 g) and triethylamine (5.1 ml). The mixture is stirred at room temperature for one hour. The reaction mixture is washed with water and an aqueous solution of sodium hydrogencarbonate, successively, and then dried. The solvent is distilled off under reduced pressure to give the above-titled compound (9.7 g).

reactant | 3-(octadecyloxy)propanol | 8.0 g | C(CCCCCCCCCCCCCCCCC)OCCCO | C21H44O2
reactant | methanesulfonyl chloride | 4.18 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 5.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(octadecyloxy)propyl methanesulfonate | 9.7 g | CS(=O)(=O)OCCCOCCCCCCCCCCCCCCCCCC | C22H46O4S
